Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Codeine / ibuprofen
 
Attending: ___.
 
Chief Complaint:
"Tried to kill myself"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ hx s/p renal and panc
transplant and psych hx of depression / personality change and
anoxic brain injury in ___ now transferred from ___
after intentional OD 20x25mg  metoprolol and 6mg lorazepam at
11am ___ as SA in the setting of patient overwhelmed. 

The patient states today she felt overwhelmed stating "it was my
husband's birthday and I had big dinner plans..I felt behind 
with
the holidays approaching." Because of such she says she 
overdosed
on her home medications with the intent of dying and also tried
to cut her wrist with a small knife and when such did not work
"got a bigger knife and tried to cut my ankles." The patient 
then
perseverates on dinner plans and begins to describes the cake 
she
had planned. The patient is able to redirect and says "I felt
behind the eight ball, I could not deal...its not like I wanted
to leave my live...I was overwhelmed." She then says the intent
was to kill herself with the overdose but is now "glad she is
alive" and feels that she needs to present for her 3 children at
home.  She states "I don't know where to go from here...I know I
need some more help." 

She also notes distress about the lack of sex life in her
marriage and states she misses her first husband. Of note 
patient
has been taking anti-rejection meds for her transplants.

The patient denies SI at this time and feels safe in the
hospital. She denies AVH or HI. She denies mania. She denies
paranoia. She endorses depression and describes such as "I don't
get any joy in life, I want to sleep all the time, I have bad
energy..I am easily distracted" She endorse some feelings of
self-guilt.

Per Husband: "In ___ while inpatient at ___ she suffered
anoxic brain injury bc of coma....she was there for several
months until ___ but in her last day or two the medical
team noted "she looks depressed" and began her on psych meds. 
The
husband feels her skin picking began the day she started psych
meds. The husband feels she was not actually depressed at this
time in ___ but also was not aware of her deficits s/p the 
brain
injury. He thinks her depression has "really only come on" in 
the
last ten months. The husband is not sure of the trigger for
depression. He reports Dr. ___ has the patient celexa and
wellbutrin and recently ritalin and the husband feels "the
Ritalin has made her more aware...she is now asking questions
like 'why don't we have sex' etc.'" The husband notes that still
she seemed "rather good" in the last few weeks but in the last
week has been "more confused...thinking it was ___
orientated to place and time, and more forgetful." This morning
the husband was in the bathroom and the patient seemed 
"cheerful"
in the morning but around 11am the patient's mother visited and
found the patient in the bedroom with a knife in her hand and
with pill bottles around her. The husband reports he is
'surprised' this happened although six weeks ago he notes she
wrote an apology note (but without intent or plan) to her son.
The patient was seen by Dr. ___ this note and denied SI
after. She told the ___ she feels 'overwhelmed' with the
holiday" [as she told me]. Husband notes she has chronic
disturbed sleep, improved energy with Ritalin, chronically poor
focus, and no overt guilt

Per OMR note by Dr. ___, ___, husband called Dr. 
___
with report that the patient overdosed on home meds and "had a
knife to her wrist". The husband told Dr. ___ patient has
been "more confused" this week. The patient meet with Dr. ___ 
on
___ and she was noted to "no longer [be] suicidal" but with
low energy and ritalin was increased. No safety concerns were
raised at recent ___ visit. Per ___ note she was
depressed but "not suicidal" and her main problem was noted to 
be
poor energy. Per initial note by Dr. ___ on ___ she was
referred to him for depression and SI w/o plan.

Psych ROS: 
+: Skin picking, Depression 
-: HI, AVH, paranoia, mania
 
Past Medical History:
PAST MEDICAL HISTORY: 
-Brittle Diabetes
-Renal Transplant
-Pancreatic Transplant
-HTN
PCP: ___, MD

PAST PSYCHIATRIC HISTORY:
-Dx: MDD, pathological skin picking
-Hospitalizations: None
-SA/SIB: None / None
-Medications: Husband reports ___ and seroquel (worsened
picking)
-Treaters: Dr. ___ at ___
-___: Anoxic brain injury, in ___ she feel down stairs
and hit head "split head open" with blood loss. Was in rehab in
___ had seizure from different bleed.
 
Social History:
___
Family History:
Denies known psych illness, SAs, addiction.
 
Physical Exam:
Vital Signs: T=98.7, BP=165/75, HR=60, RR=18, O2=100RA

Ambulatory status: ambulatory

MENTAL STATUS EXAM:
Arousal: alert, attentive
Appearance: Middle age female, appears older than stated age,
resting in bed, comfortable
Behavior: Cooperative, good eye contact
Speech: regular rate, normal volume, regular rhythm
Mood: "Ok"
Affect: Labile, at times bright but tearful when discussing
children and husband
Thought process: ___ and perseverative on husband's
birthday
Thought content: Currently denies SI or HI or AVH
Insight/Judgment: Poor/Poor

Cognitive exam:  
--Orientation: Oriented to person, place, time and situation.
--Attention: Able to name days of week backwards but slowly
--Memory: ___ registration, ___ recall, long-term: grossly 
intact
--Calculations: correct -> 7 quarters in $1.75
--Fund of knowledge: XYZ-average; consistent with education
--Similarities: abstract  "fruit" -> to apples/oranges
--Proverbs: Understands grass is always greener
 
Pertinent Results:
___ GLUCOSE-105* UREA N-49* CREAT-2.6* SODIUM-136 
POTASSIUM-5.2* CHLORIDE-107 TOTAL CO2-22 ANION GAP-12 
CALCIUM-9.1 PHOSPHATE-4.0 MAGNESIUM-2.1 tacroFK-8.8 WBC-4.3 
RBC-3.33* HGB-10.9* HCT-34.7* MCV-104* MCH-32.8* MCHC-31.5 
RDW-13.5 PLT COUNT-186

___ GLUCOSE-104* UREA N-47* CREAT-2.6* SODIUM-138 
POTASSIUM-4.4 CHLORIDE-110* TOTAL CO2-20* ANION GAP-12 
CALCIUM-9.1 PHOSPHATE-3.8 MAGNESIUM-1.9 WBC-5.7 RBC-3.42* 
HGB-10.9* HCT-35.5* MCV-104* MCH-31.9 MCHC-30.7* RDW-14.0

___ EKG: NSR, no change from prior EKG. QTC 416.
___ CXR: negative 
 
Brief Hospital Course:
1. Legal: ___
2. Medical: Patient was transferred from medical service where 
she was initially admitted for monitoring of HD status following 
B-blocker/benzodiazepine overdose and self-inflicted superficial 
abrasions. Wound management recommended xeroform gauze to 
affected areas. Medical workup revealed up to 100K organisms of 
Klebsiella in her urine; 7-day course of ciprofloxaxin 250mg 
q24hr was initiated and completed on ___. Please see medical 
discharge summary for details on medical course. Other home 
medications were continued on psychiatric admission.

S/P RENAL/PANCREATIC TX: Mycophenolate and tacrolimus were 
continued at home doses. Patient is to follow-up with PCP and 
nephrologist on discharge. Renal transplant service followed 
daily and gave BP recs (increase amlodipine) and tacrolimus 
level (goal ___ monitoring. Tacrolimus was last checked on 
___ and found to be 6.

HTN: Metoprolol was continued and amlodipine was increased to 
7.5mg daily. SBP ranged from 120-160 during admission. 

ABNORMAL MOVEMENTS: Patient was noted to have occasional facial 
movements as well as  mild/fine postural and tremor bilaterally. 
Etiology was uncertain but tardive reaction from reglan, which 
the patient had taken continuously for ___ years, was suspected. 
Reglan was discontinued as it is not recommended for >12 weeks 
due to increased risk of movement disorders. 

S/P FALLS: Patient suffered multiple mechanical falls during 
psychiatric hospitalization. Falls were witnessed but patient 
reported hitting her head. CT head and neck was negative for 
acute bleed or fracture. Neurology was consulted and felt that 
her gait instability was multifactorial (peripheral neuropathy 
___ DM1, cervical stenosis, polypharmacy). Fall precautions was 
instituted. B12, folate, RPR wnl. Repeated falls contributed to 
decision to transfer patient to medical service for closer 
monitoring in the setting of polypharmacy and cognitive 
deficits.

HYPONATREMIA: Sodium nadir was 127 from a normal baseline. 
Differential included pain-induced SIADH vs. increased free 
water intake in the hospital. Patient was started on a 1L water 
restricted diet with minimal improvement of hyponatremia. Renal 
transplant consultants recommended considering transfer to 
medical service for further management and monitoring of 
hyponatremia given complicated medical history.

3. Psychiatric:
#) DEPRESSION: Patient was initially transferred from ___ 
___ after intentional OD on metoprolol (25mg x20) and 
lorazepam 6mg as SA in the setting of feeling overwhelmed with 
upcoming holidays. She was admitted to medicine for monitoring 
of HD status in light of significant B-blocker/BZD combination 
overdose. She remained HD stable on medicine and was followed by 
psychiatry consultation service who felt that the patient needed 
to be admitted to psychiatry for ongoing risk assessment as well 
as medication readjustment. Home citalopram and buproprion were 
continued to target underlying NVG symptoms. Methylphenidate was 
discontinued as it was felt to be contributing to patient's new 
onset tremor and increased lewd verbal content (per husband). 
Throughout psychiatric admission, patient denied depressive 
symptoms and thoughts of self-harm. She continued to show poor 
insight into the gravity of her attempt leading to admission, 
likely due to her baseline cognitive limitations in conjunction 
with confusional state and disinhibition associated with UTI at 
the time of overdose. Patient was able to cite her loving 
husband, friends, and children as protective factors and was 
able to engage in safety planning by stating that she would let 
her husband know if she was feeling suicidal or depressed in the 
future. On discharge from Deac 4, the patient denied NVG 
symptoms, was more future-oriented, in good behavioral control, 
and at her cognitive baseline. 

Collateral Information:
#) OUTPT TEAM - Patient’s outpatient Psychiatrist, Dr. ___ 
PCP, ___ contacted at time of admission in order to 
discuss circumstances of patient’s hospitalization and to obtain 
relevant history. Dr. ___ that the patient had initially 
presented to his office with depression and SI but had reported 
remission of symptoms after starting citalopram and buproprion. 
Recently, he had increased her methylphenidate dose to target 
residual anergia. Dr. ___ discontinuing 
methylphenidate and starting modafinil to address persistent 
anergia. Follow-up appointments were arranged with PCP and 
psychiatrist on discharge.

#) HOSPITAL RECORDS – ___ records were reviewed.

4. Social/Milieu:
#) GROUPS - Patient attended very few groups due to neck pain, 
ongoing headaches, anergia, and cognitive limitations.

#) FAMILY – SW remained in contact with husband during 
hospitalization. Discussions were focused on psychoeducation and 
disposition planning. Husband remained supportive of the patient 
and was in agreement with treatment plan. Husband noted that the 
patient had not been particularly depressed prior to her 
overdose and that it was unexpected. He believes that her 
decision to act on her impulse to self-harm was influenced her 
confusion associated with UTI. He feels that the patient would 
be safe following discharge back to home. Husband admits to some 
degree of difficulty in managing the patient's daily needs but 
did not feel strongly about looking into services offered by 
social worker.

5. Risk Assessment:
The patient represents a chronic risk of impulsive and 
potentially dangerous behaviors given chronic medical illness, 
recent impulsive SA, history of brain injury, and disability 
status. Modifiable risk factors addressed during hospitalization 
include the following: recent life stressors (supportive 
therapy), depression (above-noted medication adjustments), 
access to suicidal means  (restricted to unit), anxiety (ativan 
PRN) and maladaptive coping skills (group therapy). Protective 
factors include that the patient is currently in good behavioral 
control, denying suicidal ideation, not abusing substances, 
medication compliant, future-oriented, and connected with 
outpatient treatment. 

6. DISPOSITION: Patient was transferred to medicine for ongoing 
management of hyponatremia and frequent falls. Inpatient team 
does not feel that the patient would benefit from psychiatric 
re-hospitalization as her depression has been stablized. 
However, if the primary medical team has concerns regarding her 
acute safety or psychiatric medications, psychiatry CL service 
should be consulted. Follow-up appointments with outpatient 
psychiatrist and PCP were arranged. We recommend that her 
psychiatric medications be continued at the doses on discharge 
from inpatient psychiatry.
 
Medications on Admission:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Atorvastatin 20 mg PO DAILY 
3. Citalopram 40 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. MethylPHENIDATE (Ritalin) 10 mg PO BID 
6. Metoclopramide 10 mg PO QIDACHS 
7. Multivitamins 1 TAB PO DAILY 
8. Myfortic (mycophenolate sodium) 180 mg Oral BID 
9. Ondansetron 8 mg PO Q8H:PRN nausea 
10. PredniSONE 5 mg PO DAILY 
11. Prograf (tacrolimus) 3 mg ORAL BID 
12. Senna 1 TAB PO BID 
13. Sulfameth/Trimethoprim SS 1 TAB PO EVERY OTHER DAY 
14. buPROPion HCl 450 mg ORAL DAILY 
15. Metoprolol Succinate XL 50 mg PO DAILY 
16. Cal-Citrate (calcium citrate-vitamin D2) 350-200  Oral BID 
17. DiphenhydrAMINE 75 mg PO HS:PRN insomnia 
18. Epoetin Alfa 6000 UNIT IV 1X/WEEK (FR) 
19. Lorazepam 1 mg PO Q6H:PRN anxiety 
20. Prochlorperazine 10 mg PO Q6H:PRN nausea 
21. Docusate Sodium 100 mg PO BID 
22. Polyethylene Glycol 17 g PO DAILY constipation 
23. Amlodipine 5 mg PO DAILY 
24. Ciprofloxacin HCl 250 mg PO Q24H Duration: 7 Days 
day 1 = ___ 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q4H:PRN pain 
2. Amlodipine 7.5 mg PO DAILY 
3. Atorvastatin 20 mg PO DAILY 
4. BuPROPion 150 mg PO TID 
5. Calcium Carbonate 500 mg PO DAILY 
6. Citalopram 40 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Epoetin Alfa ___ UNIT SC QMOWEFR CKD 
9. FoLIC Acid 1 mg PO DAILY 
10. Metoprolol Tartrate 25 mg PO BID 
11. modafinil 100 mg oral daily 
12. Multivitamins 1 TAB PO DAILY 
13. mycophenolate sodium 180 mg oral BID 
14. Ondansetron 8 mg PO Q8H:PRN nausea 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
16. PredniSONE 5 mg PO DAILY 
17. Senna 2 TAB PO BID:PRN constipation 
18. Sulfameth/Trimethoprim SS 1 TAB PO EVERY OTHER DAY 
19. Tacrolimus 2.5 mg PO Q12H 
20. Vitamin D 200 UNIT PO DAILY 

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Depression NOS
Excoriation Disorder

 
Discharge Condition:
Mood improved. Affect more reactive. Speech clear. Denies 
SI/HI/AVH. In good behavioral control. Cognition at baseline. 
Ambulatory but with multiple falls.

 
Discharge Instructions:
During your admission at ___, you were diagnosed with 
depression and treated with medication including burpropion, 
citalopram, and modafinil.
--Please follow up with all outpatient appointments as listed.
--Please continue all medications as directed.
--Please avoid abusing alcohol and any drugs, whether 
prescription drugs or illegal drugs, as this can further worsen 
your medical and psychiatric illnesses.
--Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
--Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
--It was a pleasure to have worked with you and we wish you the 
best of health.
--If you need to talk to a ___ Staff Member regarding issues 
of your hospitalization, please call ___
 
Followup Instructions:
___